US04329347
6-(4-Phenylsulfinyl-butoxy)-3,4-dihydro-carbostyril
1.6 gm of 6-(4-phenylmercapto-butoxy)-3,4-dihydro-carbostyril were dissolved in 50 ml of methanol, and 0.9 gm of N-bromosuccininimide were added. After stirring for 15 hours at room temperature, the mixture was diluted with 500 ml of hot water (80° C.) and decanted from the initially oily precipitate which gradually crystallized. After recrystallization from xylene, white crystals with a melting point of 144° to 145° C. were obtained.

reactant | 6-(4-phenylmercapto-butoxy)-3,4-dihydro-carbostyril | 1.6 gm | C1(=CC=CC=C1)SCCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO2S
reactant | methanol | 50 ml | CO | CH4O
solvent | water | 500 ml | O | H2O
product | 6-(4-Phenylsulfinyl-butoxy)-3,4-dihydro-carbostyril | C1(=CC=CC=C1)S(=O)CCCCOC=1C=C2CCC(NC2=CC1)=O | C19H21NO3S
